US05071844
(2S)-5,11-Dihydro-5-(2-pyrrolidinylmethyl)dibenzo[b,e][1,4]thiazepine-10-oxide
A solution of meta-chloroperbenzoic acid (105 mg) in chloroform (5 ml) was added to a solution of (S)-5,11-dihydro-5-(2-pyrrolidinylmethyl)dibenzo[b,e][1,4]thiazepine hydrochloride (see Preparation 21) (200 mg) in chloroform (10 ml) and the mixture stirred at room temperature for 4 hours, washed with 10% aqueous sodium carbonate solution, dried over sodium sulphate and evaporated under reduced pressure to give the title compound as a colourless gum, (180 mg, 96%).

reactant | meta-chloroperbenzoic acid | 105 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | (S)-5,11-dihydro-5-(2-pyrrolidinylmethyl)dibenzo[b,e][1,4]thiazepine hydrochloride | 200 mg | Cl.N1[C@@H](CCC1)CN1C2=C(SCC3=C1C=CC=C3)C=CC=C2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | (2S)-5,11-Dihydro-5-(2-pyrrolidinylmethyl)dibenzo[b,e][1,4]thiazepine-10-oxide | 180 mg, 96% | N1[C@@H](CCC1)CN1C2=C(S(CC3=C1C=CC=C3)=O)C=CC=C2 | C18H20N2OS
